US07790732B2
d) 5-Chloro-4-methyl-3,4-dihydro-quinazolin-2-ylamine
5-Chloro-4-methyl-2-methylsulfanyl-3,4-dihydro-quinazoline hydroiodide (100 mg, 0.28 mmol) was suspended in a mixture of ammonium hydroxide (1 ml, 25% in H2O) and acetonitrile (1 ml) and heated in a microwave oven to 130° C. (15 min) and subsequently to 170° C. (30 min). The title compound (35 mg, 62%) was isolated from the reaction mixture by preparative, reverse-phase HPLC (YMC CombiPrep C18 column 50×20 mm, solvent gradient 5-95% CH3CN in 0.1% TFA(aq) over 6.0 min, λ=230 nm, flow rate 40 ml/min) as a white solid.

reactant | 5-Chloro-4-methyl-2-methylsulfanyl-3,4-dihydro-quinazoline hydroiodide | 0.28 mmol, 100 mg | I.ClC1=C2C(NC(=NC2=CC=C1)SC)C
reactant | ammonium hydroxide | 1 ml | [OH-].[NH4+]
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH3CN | CC#N | C2H3N
product | 5-Chloro-4-methyl-3,4-dihydro-quinazolin-2-ylamine | 35 mg, 62% | ClC1=C2C(NC(=NC2=CC=C1)N)C | C9H10ClN3
